US05476671
Synthesis of N-(2,3-dihydroxypropyl)-N-dodecyl Hexadecanamide (Structure 1)
N-(2,3-dihydroxypropyl)-N-dodecylamine (0.50 g, 0.0019 mole) and potassium hydroxide (0.01 g, 0.18 mmole) were heated to 85° C. under vacuum. Methyl palmitate (0.57 g, 0.0021 mole) was heated and added dropwise to the reaction. The reaction was heated under vacuum for 6 hours. A waxy off-white solid was obtained (crude yield=0.92 g) The waxy solid was recrystalized from hot hexane (yield=0.6 g).

reactant | N-(2,3-dihydroxypropyl)-N-dodecylamine | 0.0019 mole, 0.50 g | OC(CNCCCCCCCCCCCC)CO | C15H33NO2
reactant | potassium hydroxide | 0.18 mmole, 0.01 g | [OH-].[K+]
reactant | Methyl palmitate | 0.0021 mole, 0.57 g | C(CCCCCCCCCCCCCCC)(=O)OC | C17H34O2
product | N-(2,3-dihydroxypropyl)-N-dodecyl Hexadecanamide | OC(CN(C(CCCCCCCCCCCCCCC)=O)CCCCCCCCCCCC)CO | C31H63NO3
